US06143743
Part D. A solution of the diol from Part C(ca. 9 mmol) and triphenylphosphine (2.83 g, 10.8 mmol) in THF (20 mL) was cooled to 0° C., and treated with diethyl azodicarboxylate (1.70 mL, 10.8 mmol) by syringe. The solution was stirred overnight, then evaporated, and the residue separated by a flash column to afford the product, 6-methyl-2,3-dihydrobenzofuran (780 mg, 5.81 mmol, 65%). TLC RF 0.29 (2:98 ethyl acetate-hexane). 1H NMR (300 MHz, CDCl3): d 7.07 (1H, d, J=7.4 Hz), 6.66 (1H, d, J=7.4 Hz), 6.62 (1H, s), 4.54 (2H, t, J=8.6 Hz), 3.16 (2H, t, J=8.6 Hz), 2.30 (3H, s). MS (D2O-GC/MS): m/e 135 (100).

reactant | triphenylphosphine | 10.8 mmol, 2.83 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 10.8 mmol, 1.70 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-methyl-2,3-dihydrobenzofuran | 5.81 mmol, 780 mg, 65% | CC1=CC2=C(CCO2)C=C1 | C9H10O
